US08835472B2
2-(4-Methoxyphenyl)-5-((trimethylsilyl)ethynyl)pyrazine
A mixture of 2.30 g (7.37 mmol) 2-iodo-5-(4-methoxyphenyl)pyrazine and 1.56 mL (11.1 mmol) ethynyltrimethylsilane in 30 mL THF is charged with 0.12 g (0.15 mmol) bis(triphenylphosphine)dichloropalladium, 0.03 g (15.0 mmol) CuI and 3.01 mL (22.1 mmol) TEA. After stirring at r.t. for 4 h the reaction mixture is diluted with DCM and washed with 50 mL aq. 5% ammonia solution (1×) and 50 mL water (1×). The organic layer is dried with MgSO4 and the solvent is removed in vacuo. The residue is treated with PE/EtOAc (8/2), filtered through a plug of silica gel and the solvent is again removed in vacuo. The product is used without further purification.

reactant | 2-iodo-5-(4-methoxyphenyl)pyrazine | 7.37 mmol, 2.30 g | IC1=NC=C(N=C1)C1=CC=C(C=C1)OC | C11H9IN2O
reactant | ethynyltrimethylsilane | 11.1 mmol, 1.56 mL | C(#C)[Si](C)(C)C | C5H10Si
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | bis(triphenylphosphine)dichloropalladium | 0.15 mmol, 0.12 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 15.0 mmol, 0.03 g | [Cu]I
product | 2-(4-Methoxyphenyl)-5-((trimethylsilyl)ethynyl)pyrazine | COC1=CC=C(C=C1)C1=NC=C(N=C1)C#C[Si](C)(C)C | C16H18N2OSi
